US04582839
A mixed solution of 5-{4-[2-(5-ethyl-2-pyridyl)-2-hydroxyethoxy]benzyl}-2,4-thiazolidinedione (500 mg), pyridine (5 ml) and propionic anhydride (0.3 ml) was allowed to stand over night at room temperature, and then poured in water, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and freed of the solvent. The residue was chromatographed on a silica gel (30 g) column, and elution was effected with benzene-acetone (15:1, V/V) to give 5-{4-[2-(5-ethyl-2-pyridyl)-2-propionyloxyethoxy]benzyl}-2,4-thiazolidinedione in the form of an oily substance. Yield of 515 mg (89.7%).

reactant | 5-{4-[2-(5-ethyl-2-pyridyl)-2-hydroxyethoxy]benzyl}-2,4-thiazolidinedione | 500 mg | C(C)C=1C=CC(=NC1)C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)O | C19H20N2O4S
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | propionic anhydride | 0.3 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | water | O | H2O
product | 5-{4-[2-(5-ethyl-2-pyridyl)-2-propionyloxyethoxy]benzyl}-2,4-thiazolidinedione | C(C)C=1C=CC(=NC1)C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)OC(CC)=O | C22H24N2O5S
